US06441052B1
Acetylene was bubbled for 50 minutes through a solution of tBuOK (33.8 g; 0.30 mol) in TBF (240 ml) at 0° C. The resulting beige suspension was treated with 5-cyclopentylidenepentan-2-one (41.7 g; 0.27 mol) added dropwise for 15 minutes at 0° C. The resulting mixture was warmed gently to room temperature and quenched with saturated NH4Cl (180 ml). The aqueous phase was separated and extracted with MTBE (2×120 ml). The combined organic layers were washed with H2O (240 ml), brine (100 ml), dried over MgSO4, and concentrated in vacuo. Distillation (69° C.-71° C./0.09 torr) afforded 38.95 g (81% yield) of 6-cyclopentylidene-3-methylhex-1-yn-3-ol.

reactant | Acetylene | C#C | C2H2
reactant | tBuOK | 0.30 mol, 33.8 g | C(C)(C)(C)O[K]
reactant | 5-cyclopentylidenepentan-2-one | 0.27 mol, 41.7 g | C1(CCCC1)=CCCC(C)=O | C10H16O
product | 6-cyclopentylidene-3-methylhex-1-yn-3-ol | 38.95 g, 81% yield | C1(CCCC1)=CCCC(C#C)(O)C | C12H18O
